US06133253
7b. 1-butyloxycarbonyl-2-(S)-azetidine carboxylic acid
To an ice-cooled solution of 2-(S)-azetidinecarboxylic acid (10.2 g, 100 mmol, Aldrich) in 300 mL of 1:1 water/1,4-dioxane was added di-tert-butyl dicarbonate (28.5 g, 131 mmol), followed by 4-methylmorpholine (11.7 g, 115 mmol). The reaction mixture was warmed to ambient temperature and stirred for 18 hours. The reaction mixture was then poured into a ice cooled saturated solution of sodium bicarbonate (250 mL) and washed with ethyl acetate. The aqueous phase was then acidified with potassium hydrogen sulfate (pH=1) and the product extracted with ethyl acetate. These organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a white semisolid: MS (CI/NH3) m/z 202 (M+H)+, 219 (M+NH4)+ ; 1H NMR (CDCl3, 300 MHz) δ 10.0 (br s, 1H), 4.81-4.76 (t, J=15 Hz, 1H), 3.99-3.83 (m, 2H), 2.62-2.38 (m, 2H), 1.48 (s, 9H).

reactant | 2-(S)-azetidinecarboxylic acid | 100 mmol, 10.2 g | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | di-tert-butyl dicarbonate | 131 mmol, 28.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-methylmorpholine | 115 mmol, 11.7 g | CN1CCOCC1 | C5H11NO
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | water 1,4-dioxane | 300 mL | O.O1CCOCC1
product | 1-butyloxycarbonyl-2-(S)-azetidine carboxylic acid | C(CCC)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
